US08183275B2
4-(2,2-Dimethylbutyl)-2-(3-hydrazino-3-oxopropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide
Hydrazine (0.45 mL, 14.5 mmol) was added to a solution of methyl 3-[1-[(dimethyl-amino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]propanoate (1 g, 2.9 mmol) in dry methanol (2 mL). After stirring at rt for 3 hr, volatiles were removed in vacuo, and chromatography of the resulting residue over silica eluting with 0-40% ethyl acetate/hexane afforded the title compound.

reactant | Hydrazine | 14.5 mmol, 0.45 mL | NN | H4N2
reactant | methyl 3-[1-[(dimethyl-amino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]propanoate | 2.9 mmol, 1 g | CN(S(=O)(=O)N1C(=NC(=C1)CC(CC)(C)C)CCC(=O)OC)C | C15H27N3O4S
solvent | methanol | 2 mL | CO | CH4O
product | 4-(2,2-Dimethylbutyl)-2-(3-hydrazino-3-oxopropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)CCC(=O)NN)(CC)C | C14H27N5O3S
